data/oMe_Silver.jsonl
{"reaction_id": "NR-202_1-C#CC_2-c1ccc(C(F)(F)F)cc1_3-C(C)C","level": "medium","name": "Neber Rearrangement","reactants_smiles": ["C(C#CC)(c1ccc(C(F)(F)F)cc1)C(=NOS(=O)(=O)c1ccc(C)cc1)C(C)C"],"products_smiles": ["C(C)CC(=O)C(C#CC)(c1ccc(C(F)(F)F)cc1)N"],"conditions": "Base, H2O","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[C-](C#CC)(c1ccc(C(F)(F)F)cc1)C(=NOS(=O)(=O)c1ccc(C)cc1)C(C)C","step_weight": 0,"rationale": "The base abstracts the relatively acidic alpha-proton due to resonance stabilization of the resulting carbanion by the adjacent oxime group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)CC2=NC(C#CC)(c1ccc(C(F)(F)F)cc1)2","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the oxime nitrogen intramolecularly, forming a strained azirine ring and displacing the tosylate, a good leaving group stabilized by resonance."},{"step": 3,"type": "rearrangement","subtype": "rearrangement","intermediate_smiles": "C(C(C)C)2(C(C#CC)(c1ccc(C(F)(F)F)cc1)[N-]2)O","step_weight": 0,"rationale": "Water adds to the electrophilic azirine carbon, driven by ring strain relief and polarization of the C–N bond."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)C)2(C(C#CC)(c1ccc(C(F)(F)F)cc1)[NH]2)[O-]","step_weight": 0,"rationale": "Proton transfer from the coordinated water to nitrogen stabilizes the intermediate, favored in aqueous medium."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C)CC(C(C#CC)(c1ccc(C(F)(F)F)cc1)[NH-])=O","step_weight": 0,"rationale": "Elimination of hydroxide from the intermediate occurs to form the carbonyl, driven by the stability of the ketone and the good leaving ability of hydroxide under these conditions."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)CC(=O)C(C#CC)(c1ccc(C(F)(F)F)cc1)N","step_weight": 0,"rationale": "Final protonation of the nitrogen yields the neutral alpha-amino ketone, favored under aqueous conditions for product stability."}],"description": "Under basic aqueous conditions, the alpha-proton adjacent to the oxime tosylate is deprotonated, enabling intramolecular cyclization to an azirine via tosylate departure. Subsequent hydrolytic ring opening, proton transfers, and rearrangement yield the thermodynamically stable alpha-amino ketone."}
{"reaction_id": "NR-238_1-C_2-c2ccc(C)cc2_3-C(C)C_4-c2ccc(C)cc2","level": "medium","name": "Steglich Esterification","reactants_smiles": ["CC(=O)O","C(C)CN=C=Nc2ccc(C)cc2","c2ccc(C)cc2O","CN(C)c1ccncc1"],"products_smiles": ["c2ccc(C)cc2OC(=O)C"],"conditions": "","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CC(=O)OC(=[NH+]C(C)C)Nc2ccc(C)cc2","step_weight": 0,"rationale": "The carboxylate oxygen attacks the electrophilic carbon of DCC due to its strong polarization by adjacent nitrogens, forming a reactive O-acylisourea intermediate stabilized by resonance."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "CN(C)c1cc[n+](cc1)C(=O)C","step_weight": 0,"rationale": "DMAP, a nucleophilic catalyst with an electron-rich pyridine nitrogen, displaces the isourea group via nucleophilic substitution, forming a more electrophilic N-acylpyridinium ion."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CN(C)c1cc[n+](cc1)C([O-])(Oc2ccc(C)cc2)C","step_weight": 0,"rationale": "The alcohol oxygen attacks the highly activated acyl carbon of the N-acylpyridinium ion, favored by the strong electron-withdrawing effect of the pyridinium group."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c2ccc(C)cc2OC(=O)C","step_weight": 0,"rationale": "Collapse of the tetrahedral intermediate expels DMAP as a good leaving group, driven by restoration of carbonyl conjugation, yielding the ester product."}],"description": "In the Steglich esterification, DCC activates the carboxylic acid to form an O-acylisourea intermediate, which is further activated by DMAP to an N-acylpyridinium species. This highly electrophilic intermediate undergoes nucleophilic attack by the alcohol, followed by elimination to yield the ester under mild conditions."}
